US07429581B2
(iii) 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-4-(2,2,2-trifluoro-ethoxy)-1H-pyrazole-3,5-dicarboxylic acid diethyl ester
To a solution of 260 mg 4-(2,2,2-Trifluoro-ethoxy)-1H-pyrazole-3,5-dicarboxylic acid diethyl ester in 4 ml absolute DMF 33.5 mg of a 60% suspension of NaH in mineral oil were added under an argon atmosphere. The mixture was stirred for 15 min at RT. Then 209 mg 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide were added and the mixture stirred for 2 h at RT. After concentration in vacuo the residue was directly subjected to the next reaction step without further purification.

reactant | 4-(2,2,2-Trifluoro-ethoxy)-1H-pyrazole-3,5-dicarboxylic acid diethyl ester | 260 mg | C(C)OC(=O)C1=NNC(=C1OCC(F)(F)F)C(=O)OCC | C11H13F3N2O5
reactant | NaH | [H-].[Na+]
reactant | 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide | 209 mg | BrCC(=O)NC1=NC=C(C=C1)Cl | C7H6BrClN2O
solvent | DMF | 4 ml, 33.5 mg | CN(C)C=O | C3H7NO
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-4-(2,2,2-trifluoro-ethoxy)-1H-pyrazole-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=NN(C(=C1OCC(F)(F)F)C(=O)OCC)CC(NC1=NC=C(C=C1)Cl)=O | C18H18ClF3N4O6
